US07902226B2
7-[3-(R)-(1-aminocyclopropyl)pyrrolidin-1-yl]-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
After adding 3-(R)-[1-[N-(tert-butoxycarbonyl)amino]cyclopropyl]pyrrolidine (203 mg, 817 μmol) and triethylamine (0.5 ml) to dried dimethyl sulfoxide (1 ml), 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (197 mg, 743 μmol) was added thereto and the mixture was heated reflux for 15 hours under a nitrogen atmosphere. After letting the reaction solution cool, water (30 ml) was added to the reaction solution while cooling with ice, and the precipitated crystals were filtered out and washed well with water. After adding concentrated hydrochloric acid (5 ml) to the obtained crystals while cooling with ice, stirring at the same temperature was performed for 30 minutes. 1 mol/l hydrochloric acid (10 ml) was then added to the reaction solution, and after washing the yellow acidic aqueous solution with chloroform (50 ml×2), the pH was adjusted to 12.0 with an aqueous sodium hydroxide solution. After adjusting the pH of the basic aqueous solution to 7.4 with 1 mol/l hydrochloric acid, extractions into chloroform (100 ml×3) and a 95:5 mixture of chloroform:methanol (100 ml×2) were performed. The organic layers were then combined, and after drying the organic layer over anhydrous sodium sulfate, the solvent was evapolated under a reduced pressure. The residue obtained was purified by recrystallization in ethanol and then dried under a reduced pressure. 203 mg (74%) of the title compound was thereby obtained in the form of yellow crystals.

reactant | 3-(R)-[1-[N-(tert-butoxycarbonyl)amino]cyclopropyl]pyrrolidine | 817 μmol, 203 mg | C(C)(C)(C)OC(=O)NC1(CC1)[C@H]1CNCC1 | C12H22N2O2
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
reactant | 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 743 μmol, 197 mg | FC1=CC=C2C(C(=CN(C2=C1)[C@H]1[C@H](C1)F)C(=O)O)=O | C13H9F2NO3
solvent | water | 30 ml | O | H2O
product | 7-[3-(R)-(1-aminocyclopropyl)pyrrolidin-1-yl]-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 203 mg, 74% | NC1(CC1)[C@H]1CN(CC1)C1=CC=C2C(C(=CN(C2=C1)[C@H]1[C@H](C1)F)C(=O)O)=O | C20H22FN3O3
